US06541504B1
3-[6-(3-Hydroxy-propylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one
A mixture of 3-(6-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (25.0 mg, 0.095 mmol), 3-bromo-1-propanol (85.5 μL, 0.946 mmol), and silver sulfate (59.0 mg, 0.189 mmol) in 0.8 mL DMF was heated at 120° C. for 1.5 h. The mixture was partitioned between EtOAc and H2O and the organic layer separated from the silver salts. The solution was washed with H2O, brine and then dried with Na2SO4. Concentrating the solution in vacuo gave a residue which was purified by chromatography (silica gel, CHCl3/MeOH, 96:4) to give the title compound (3 mg, 10%) as a yellow solid.

reactant | 3-(6-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 0.095 mmol, 25.0 mg | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=CC=C12)=O | C16H12N2O2
reactant | 3-bromo-1-propanol | 0.946 mmol, 85.5 μL | BrCCCO | C3H7BrO
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
catalyst | silver sulfate | 0.189 mmol, 59.0 mg | S(=O)(=O)([O-])[O-].[Ag+2]
product | 3-[6-(3-Hydroxy-propylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 3 mg, 10% | OCCCNC1=CC=C2COC(C2=C1)=C1C(NC2=CC=CC=C12)=O | C19H18N2O3
